US08426411B2
To a solution of (R)-1-(piperidin-3-yl)-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazine hydrochloride (0.24 g, 0.76 mmol) in pyridine (7.2 mL) was added CDI (0.14 g, 0.87 mmol) and the reaction mixture was stirred at about 50° C. for about 2 h. Additional CDI (0.02 g, 0.14 mmol) was added and the reaction mixture was stirred for about 1 h. To the reaction mixture was added 4,4-difluoropiperidine hydrochloride (0.12 g, 0.76 mmol). The reaction mixture was heated to about 55° C. for about 1 h, cooled to ambient temperature, and stirred for about 2 d. The solvent was removed under reduced pressure and the crude residue dissolved with DCM (5 mL) and washed with water (2 mL). The aqueous layer was back extracted with DCM (2 mL). The combined organic extracts were washed with brine (3 mL), dried over anhydrous MgSO4, filtered, and concd under reduced pressure. The crude material was purified by silica gel chromatography eluting with a gradient of 0-5% MeOH in DCM to afford (R)-(3-(6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)piperidin-1-yl)(4,4-difluoropiperidin-1-yl)methanone (0.146 g, 49%) as an off white solid: LC/MS (Table 1, Method b) Rt=1.70 min; MS m/z: 389 (M+H)+.

reactant | (R)-1-(piperidin-3-yl)-6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazine hydrochloride | 0.76 mmol, 0.24 g | Cl.N1C[C@@H](CCC1)C1=NC=C2N1C1=C(N=C2)NC=C1
reactant | CDI | 0.87 mmol, 0.14 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | CDI | 0.14 mmol, 0.02 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4,4-difluoropiperidine hydrochloride | 0.76 mmol, 0.12 g | Cl.FC1(CCNCC1)F
solvent | pyridine | 7.2 mL | N1=CC=CC=C1 | C5H5N
product | (R)-(3-(6H-imidazo[1,5-a]pyrrolo[2,3-e]pyrazin-1-yl)piperidin-1-yl)(4,4-difluoropiperidin-1-yl)methanone | 0.146 g, 49% | C1(=NC=C2N1C1=C(N=C2)NC=C1)[C@H]1CN(CCC1)C(=O)N1CCC(CC1)(F)F | C19H22F2N6O
